US08809529B2
8-benzyl-2-methyl-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one:
Synthesized using method B with 1,1-dimethoxypropan-2-one and 3-benzyl-5-phenylpyrazin-2-amine as starting materials. Exact mass calculated for C20H18N30+ m/z+ 316.14, found m/z+ 316.

reactant | 1,1-dimethoxypropan-2-one | COC(C(C)=O)OC | C5H10O3
reactant | 3-benzyl-5-phenylpyrazin-2-amine | C(C1=CC=CC=C1)C=1C(=NC=C(N1)C1=CC=CC=C1)N | C17H15N3
product | 8-benzyl-2-methyl-6-phenylimidazo[1,2-a]pyrazin-3(7H)-one | C(C1=CC=CC=C1)C1=C2N(C=C(N1)C1=CC=CC=C1)C(C(=N2)C)=O | C20H17N3O
